data/oMe_Silver.jsonl
{"reaction_id": "NR-143_1-c1ccc(OC)cc1_2-c1cnccc1_3-COCC","name": "Meyer-Schuster Rearrangement","level": "medium","reactants_smiles": ["C(C#Cc1ccc(OC)cc1)(O)(c1cnccc1)(COCC)"],"products_smiles": ["C(=O)(c1ccc(OC)cc1)C=C(c1cnccc1)(COCC)"],"conditions": "Acid","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C([OH2+])(C#Cc1ccc(OC)cc1)(c1cnccc1)(COCC)","rationale": "Protonation of the hydroxyl group increases its leaving group ability by converting OH into water, favored under acidic conditions due to enhanced electrophilicity at the adjacent carbon."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[C+](C#Cc1ccc(OC)cc1)(c1cnccc1)(COCC)","rationale": "Loss of water generates a carbocation stabilized by adjacent propargyl resonance, making elimination favorable despite potential steric effects from c1cnccc1 and COCC."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(O)(c1ccc(OC)cc1)=C=C(c1cnccc1)(COCC)","rationale": "Nucleophilic attack of water on the electrophilic carbocation occurs, driven by carbocation stability and the ability to form an enol intermediate conjugated with the alkyne."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(c1ccc(OC)cc1)C=C(c1cnccc1)(COCC)","rationale": "Proton transfer tautomerizes the enol to the more thermodynamically stable α,β-unsaturated carbonyl, favored by conjugation between the C=O and C=C."}],"description": "Under acidic conditions, the propargyl alcohol undergoes protonation to activate the hydroxyl group, followed by water loss to form a stabilized carbocation. Nucleophilic addition and proton transfers rearrange the triple bond into an α,β-unsaturated carbonyl via the Meyer–Schuster pathway."}
{"reaction_id": "NR-217_1-C_2-c1ccccc1","level": "easy","name": "Acidic elimination","reactants_smiles": ["OC(C)C(c1ccccc1)[Si](C)(C)C"],"products_smiles": ["C(C)=C(c1ccccc1)"],"conditions": "Acidic conditions","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[OH2+]C(C)C(c1ccccc1)[Si](C)(C)C","step_weight": 0,"rationale": "Protonation of the hydroxyl oxygen increases its positive charge, converting OH into the better leaving group H2O under acidic conditions."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C)=C(c1ccccc1)","step_weight": 0,"rationale": "Loss of water is favored due to its stability as a leaving group; the adjacent silyl group stabilizes developing carbocation character, enabling alkene formation."}],"description": "Under acidic conditions, the hydroxyl group is protonated to form a better leaving group, facilitating elimination. The bulky trialkylsilyl group on the adjacent carbon stabilizes carbocation character and promotes loss of water to yield the alkene."}
